US07157463B2
5-Bromoisoquinoline (250 mg, 1.2 mmol) is dissolved in toluene (5 mL). To the solution is added piperazine (258 mg, 3.0 mmol), Pd2dba3 (55 mg, 0.06 mmol), BINAP (112 mg, 0.18 mmol), and sodium t-butoxide (162 mg, 1.68 mmol). The mixture is degassed and then heated to 90° C. for about 12 hours. The reaction is allowed to cool to r.t., diluted with diethyl ether and filtered through celite. The filtrate is concentrated, and the dark residue is chromatographed on silica gel to give about 160 mg of 5-(piperazin-1-yl)isoquinoline (63%). EIS-MS: Found 214.0 (M+1).

reactant | 5-Bromoisoquinoline | 1.2 mmol, 250 mg | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | piperazine | 3.0 mmol, 258 mg | N1CCNCC1 | C4H10N2
reactant | BINAP | 0.18 mmol, 112 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium t-butoxide | 1.68 mmol, 162 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.06 mmol, 55 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(piperazin-1-yl)isoquinoline | about 160 mg, 63% | N1(CCNCC1)C1=C2C=CN=CC2=CC=C1 | C13H15N3
